US07745462B2
Liquid ammonia (80 ml) is condensed at −78° C. and 2-aminoindane (2 g, 15 mmol) is added, followed by lithium wire (2 g, 300 mmol) portionwise over 5 minutes. The reaction is stirred at −78° C. for 2 hours, then cautiously quenched with ethanol (100 ml) and warmed to ambient temperature overnight. Water is added, the mixture is extracted with ether and the combined organic extracts are washed with brine, dried (MgSO4) and evaporated to afford 2,3,4,7-tetrahydro-1H-inden-2-ylamine. [M+CH3CN] 177.

reactant | 2-aminoindane | 15 mmol, 2 g | NC1CC2=CC=CC=C2C1 | C9H11N
reactant | lithium | 300 mmol, 2 g | [Li] | Li
solvent | ammonia | 80 ml | N | H3N
product | 2,3,4,7-tetrahydro-1H-inden-2-ylamine | C1C(CC=2CC=CCC12)N | C9H13N
